US07091220B2
The reaction of 8.2 ml (0.100 mol) pyrrolidine and 7.0 g (0.050 mol) 2-methylbenzaldehyde in accordance with general synthesis instructions 2 and subsequent reaction with 3.9 g (0.050 mol) acetyl chloride in accordance with general synthesis instructions 3 gave 6.6 g (corresponding to 63% of the yield calculated by theory) 1-(2-methyl-benzylidene)-pyrrolidinium chloride.

reactant | pyrrolidine | 0.100 mol, 8.2 ml | N1CCCC1 | C4H9N
reactant | 2-methylbenzaldehyde | 0.050 mol, 7.0 g | CC1=C(C=O)C=CC=C1 | C8H8O
reactant | acetyl chloride | 0.050 mol, 3.9 g | C(C)(=O)Cl | C2H3ClO
product | 1-(2-methyl-benzylidene)-pyrrolidinium chloride | [Cl-].CC1=C(C=[N+]2CCCC2)C=CC=C1 | InChI=1S/C12H16N.ClH/c1-11-6-2-3-7-12(11)10-13-8-4-5-9-13;/h2-3,6-7,10H,4-5,8-9H2,1H3;1H/q+1;/p-1
